US06991888B2
4-Hydroxy-3,5-dimethyl phenyl dimethyl sulfonium chloride
61 g of dimethylphenol (0.5 mole), 39 g (0.5 mole) of dimethylsulfoxide (DMSO), and 400 ml of methanol were placed in a 1 liter round bottom flask equipped with a thermometer and a condenser. The mixture was cooled in a liquid nitrogen-isopropyl alcohol bath while hydrogen chloride gas was bubbled in at 10° C. for 6 hours. A precipitate was formed and a part of the methanol was removed by rotavap. The crystals were filtered and washed with ether several times. The solid product gave the following analytical results 1H NMR(Acetone-d6), 2.34 (s, 6H, 2CH3); 3.23 (s, 6H, 2CH3); 7.80 (s, 2H, aromatic).

reactant | dimethylphenol | 0.5 mole, 61 g | CC=1C(=C(C=CC1)O)C | C8H10O
reactant | dimethylsulfoxide | 0.5 mole, 39 g | CS(=O)C | C2H6OS
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 400 ml | CO | CH4O
product | 4-Hydroxy-3,5-dimethyl phenyl dimethyl sulfonium chloride | [Cl-].OC1=C(C=C(C=C1C)[S+](C)C)C | InChI=1S/C10H14OS.ClH/c1-7-5-9(12(3)4)6-8(2)10(7)11;/h5-6H,1-4H3;1H
